US08278442B2
Preparation 19: 6-(1-Methylisoquinolin-4-yloxy)nicotinamide
To a solution of 6-(1-methylisoquinolin-4-yloxy)nicotinonitrile (Preparation 18) (200 mg, 0.77 mmol) in DMSO (5 mL) was added K2CO3 (53 mg, 0.38 mmol) and H2O2 (30% w/v, 120 μL, 1.1 mmol). After 1 h water (20 mL) was added and the mixture extracted with EtOAc (3×50 mL). The organic phase was washed with water (2×30 mL), NaHCO3 (30 mL), brine (30 mL) and dried (MgSO4). Solvent was removed in vacuo and the residue purified by column chromatography (0.5 NH3: 5 MeOH: 95 DCM) to give the title compound: RT=2.11 min; m/z (ES+)=280.1 [M+H]+.

reactant | 6-(1-methylisoquinolin-4-yloxy)nicotinonitrile | 0.77 mmol, 200 mg | CC1=NC=C(C2=CC=CC=C12)OC1=NC=C(C#N)C=C1 | C16H11N3O
reactant | K2CO3 | 0.38 mmol, 53 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 1.1 mmol, 120 μL | OO | H2O2
reactant | water | 20 mL | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 6-(1-Methylisoquinolin-4-yloxy)nicotinamide | CC1=NC=C(C2=CC=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C16H13N3O2
